US08686048B2
Intermediate 69: 3′-propoxybiphenyl-4-amine
The title compound (280 mg) was prepared from 4-bromoaniline (300 mg, 1.7 mmol) and 3-propoxyphenylboronic acid (408 mg, 2.3 mmol) as a colourless liquid.

reactant | 4-bromoaniline | 1.7 mmol, 300 mg | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | 3-propoxyphenylboronic acid | 2.3 mmol, 408 mg | C(CC)OC=1C=C(C=CC1)B(O)O | C9H13BO3
product | 3′-propoxybiphenyl-4-amine | 280 mg | C(CC)OC=1C=C(C=CC1)C1=CC=C(C=C1)N | C15H17NO
